* Z:\mnt\design.r\spice\examples\1628-SYNC.asc
M§Q1 IN N003 N005 N005 FDS6680A
M§Q2 N005 N011 0 0 FDS6680A
C1 N006 N005 .1µ
D1 N001 N006 1N5817
C2 N001 0 1µ
D2 0 N005 1N5817
L1 N005 N009 6.3µ Rpar=10000
C3 N009 OUT1 1000p
R1 N013 0 20K
R2 N013 OUT1 105K
C4 OUT1 0 47µ Rser=15m
C5 N016 N015 220p
C6 N019 0 .002µ
R3 N015 0 15K
V1 IN 0 7
M§Q3 IN N004 N008 N008 FDS6680A
M§Q4 N008 N012 0 0 FDS6680A
C7 N007 N008 .1µ
D3 N001 N007 1N5817
D4 0 N008 1N5817
R4 N010 OUT2 .01
C8 N010 OUT2 1000p
R5 N014 0 20K
R6 N014 OUT2 63.4K
C9 OUT2 0 47µ Rser=15m
C10 N017 N018 220p
C11 N020 0 .002µ
R7 N018 0 15K
L2 N008 N010 6.3µ Rpar=10000
R8 N009 OUT1 .01
R9 IN N022 10K
XU1 N019 N009 OUT1 N013 N023 N025 N001 N016 0 N021 N017 N014 OUT2 N010 N020 N004 N008 N007 N012 0 N001 N002 N011 IN N006 N005 N003 N022 LTC1628-SYNC
V2 N025 0 SIN(1 1 160K)
R10 N023 N024 10K
C12 N024 0 500p
Rload1 OUT1 0 10
Rload2 OUT2 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3.5m startup
.lib LTC1628-SYNC.sub
.backanno
.end
